US05977178
(2E)-5-(tert-Butoxycarbonylamino)-5-methylhex-2-enoic acid (81 mg, 0.33 mmol) was dissolved in N,N-dimethylformamide (2 ml) and dichloromethane (2 ml). 1-Hydroxy-7-azabenzotriazole (45 mg, 0.33 mmol) was added. The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (69 mg, 0.36 mmol) was added. A solution of 1,1-dimethyl-2-((2R)-2-(N-methyl-N-((2R)-2-methylamino-3-(2-naphthyl)propionyl)amino)-3-phenylpropionylamino)ethyl acetate (152 mg, 0.30 mmol) in dichloromethane (2 ml) and ethyldiisopropylamine (0.05 ml, 0.30 mmol) were added successively. The solution was stirred for 16 h, while warming up to room temperature. It was diluted with ethyl acetate (150 ml), washed with 1N hydrochloric acid (100 ml) and saturated sodium hydrogen carbonate solution, and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g), using ethyl acetate/heptane (first 1:1 (250 ml), then 2:1) to give 221 mg of 2-((2R)-2-(N-((2R)-2-(N-((2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoyl)-N-methylamino)-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)-1,1-dimethylethyl acetate.

reactant | (2E)-5-(tert-Butoxycarbonylamino)-5-methylhex-2-enoic acid | 0.33 mmol, 81 mg | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 0.33 mmol, 45 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 0.36 mmol, 69 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1,1-dimethyl-2-((2R)-2-(N-methyl-N-((2R)-2-methylamino-3-(2-naphthyl)propionyl)amino)-3-phenylpropionylamino)ethyl acetate | 0.30 mmol, 152 mg | C(C)(=O)OC(CNC([C@@H](CC1=CC=CC=C1)N(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C)=O)(C)C | C30H37N3O4
reactant | ethyldiisopropylamine | 0.30 mmol, 0.05 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2-((2R)-2-(N-((2R)-2-(N-((2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoyl)-N-methylamino)-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)-1,1-dimethylethyl acetate | 221 mg | C(C)(=O)OC(CNC([C@@H](CC1=CC=CC=C1)N(C)C([C@@H](CC1=CC2=CC=CC=C2C=C1)N(C)C(\C=C\CC(C)(C)NC(=O)OC(C)(C)C)=O)=O)=O)(C)C | C42H56N4O7
